US06437165B1
Step C: (±)-Diethyl 3-carboxy-3-methyl-5-(4-(octyl)phenyl)pentylphosphonate
To a solution of (±)-diethyl 3-ethoxycarbonyl-3-methyl-5-(4-(octyl)phenyl)pentylphosphonate (0.211 g, 0.437 mmol) in methanol (2 ml) was added 1N aqueous sodium hydroxide (1.3 ml, 1.3 mol). Tetrahydrofuran was added as necessary to keep the substrate in solution. The reaction was heated to 50° C. for 16 h then warmed to 70° and stirred at this temperature for 20 h. The reaction was diluted with ethyl acetate (30 ml) and washed with 2N aq HCl (20 ml), saturated aqueous sodium chloride (20 ml), dried over magnesium sulfate and concentrated to give a colorless oil (0.164 g): MS m/e 455.2 (M+).

reactant | (±)-diethyl 3-ethoxycarbonyl-3-methyl-5-(4-(octyl)phenyl)pentylphosphonate | 0.437 mmol, 0.211 g | C(C)OC(=O)C(CCP(OCC)(OCC)=O)(CCC1=CC=C(C=C1)CCCCCCCC)C | C27H47O5P
reactant | sodium hydroxide | 1.3 mol, 1N, 1.3 ml | [OH-].[Na+]
reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (±)-Diethyl 3-carboxy-3-methyl-5-(4-(octyl)phenyl)pentylphosphonate | 0.164 g | C(=O)(O)C(CCP(OCC)(OCC)=O)(CCC1=CC=C(C=C1)CCCCCCCC)C | C25H43O5P
